US05684029
Tert.-butyl 4'-[[2-n-butyl-6-(pyrrolidinocarbonylamino)-benzimidazol-1-yl]methyl]biphenyl-2-carboxylate
2.0 g (15 mMol) of pyrrolidinocarbonyl chloride are placed in 50 ml of dry chloroform and 2.3 g (6 mMol) of tert.-butyl 4'-[(6-amino-2-n-butyl-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylate dissolved in 50 ml of dry pyridine are added dropwise for one hour. The reaction solution is stirred for a further 24 hours and then concentrated by rotary evaporation. The oily residue is distributed in ethyl acetate and 10% sodium hydrogen carbonate solution, the organic phase is separated off and, after drying with magnesium sulphate, concentrated by rotary evaporation. Purification is carried out using a silica gel column (particle size: 0.063-0.2 mm), eluting with petroleum ether/ethyl acetate=3:7. The corresponding column fractions are concentrated by rotary evaporation and dried in vacuo at 50° C.

reactant | pyrrolidinocarbonyl chloride | 15 mMol, 2.0 g | N1(CCCC1)C(=O)Cl | C5H8ClNO
reactant | tert.-butyl 4'-[(6-amino-2-n-butyl-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylate | 6 mMol, 2.3 g | NC=1C=CC2=C(N(C(=N2)CCCC)CC2=CC=C(C=C2)C=2C(=CC=CC2)C(=O)OC(C)(C)C)C1 | C29H33N3O2
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | Tert.-butyl 4'-[[2-n-butyl-6-(pyrrolidinocarbonylamino)-benzimidazol-1-yl]methyl]biphenyl-2-carboxylate | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C)C=C(C=C2)NC(=O)N2CCCC2 | C34H40N4O3
